US04508909
To a mixture of N-(2-hydroxyethyl)dithiocarbamic acid methyl ester (1.513 g) and isobutoxyethylene (2.59 ml) is added toluene-p-sulfonic acid monohydrate (9.5 mg). After stirring for 30 minutes, triethylamine (8 μl) is added to the mixture, and the resulting solution is concentrated under reduced pressure to give N-[2-(1-isobutoxyethyl)ethyl]dithiocarbamic acid methyl ester (3.2 g). Yield: 95%.

reactant | N-(2-hydroxyethyl)dithiocarbamic acid methyl ester | 1.513 g | CSC(NCCO)=S | C4H9NOS2
reactant | isobutoxyethylene | 2.59 ml | C(C(C)C)OC=C | C6H12O
reactant | toluene-p-sulfonic acid monohydrate | 9.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 8 μl | C(C)N(CC)CC | C6H15N
product | N-[2-(1-isobutoxyethyl)ethyl]dithiocarbamic acid methyl ester | 3.2 g, Yield: 95% | CSC(NCCC(C)OCC(C)C)=S | C10H21NOS2
